US08466176B2
To a stirred solution of 4-{[({[3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}-1,3-thiazol-2-amine (90.0 mg, 0.25 mmol) in dry 1,2-dichloroethane (5 mL), under argon atmosphere, were added 3-phenylpropionaldehyde (63.5 mg, 0.47 mmol), acetic acid (89.7 mg, 1.49 mmol) and sodium triacetoxyborohydride (156 mg, 0.70 mmol) at room temperature. After stirring at room temperature for 18 h, 3-phenylpropionaldehyde (63.5 mg, 0.47 mmol), acetic acid (89.7 mg, 1.49 mmol) and sodium triacetoxyborohydride (156 mg, 0.70 mmol) were added again and the reaction mixture was further stirred at room temperature for 20 h. The reaction mixture was diluted with dichloromethane (10 mL) and sat. aq. NaHCO3 (10 mL) was added. After phase separation, the aqueous layer was washed with ethyl acetate (3×10 mL), the combined organic layers were washed with water (10 mL), dried over MgSO4 and concentrated in vacuo. Purification on silica gel afforded 4-{[({[3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}-N-(3-phenylpropyl)-1,3-thiazol-2-amine as a pale yellow oil [69 mg, yield 58%; HPLC/MS m/z=481 (M+H); logP(HCOOH)=3.71].

reactant | 4-{[({[3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}-1,3-thiazol-2-amine | 0.25 mmol, 90.0 mg | CSC=1C=C(C=CC1)C(C1=NN=NN1C)=NOCC=1N=C(SC1)N | C14H15N7OS2
reactant | 3-phenylpropionaldehyde | 0.47 mmol, 63.5 mg | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | acetic acid | 1.49 mmol, 89.7 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.70 mmol, 156 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-phenylpropionaldehyde | 0.47 mmol, 63.5 mg | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | acetic acid | 1.49 mmol, 89.7 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.70 mmol, 156 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | 4-{[({[3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}-N-(3-phenylpropyl)-1,3-thiazol-2-amine | yield 58% | CSC=1C=C(C=CC1)C(C1=NN=NN1C)=NOCC=1N=C(SC1)NCCCC1=CC=CC=C1 | C23H25N7OS2
